US08686005B2
3-Bromo-2-(5,5-dimethyl-[1,3]dioxan-2-yl)-6-methoxy-phenol:
A mixture of 6-bromo-2-hydroxy-3-methoxy-benzaldehyde (2.31 g, 10.0 mmol), neopentyl glycol (1.14 g, 11.0 mmol), TsOH (9.5 mg) and triethyl orthoformate (1.93 g, 13.0 mmol) were heated at 110° C. for 30 min and then partitioned between NaHCO3 (300 mL) solution and EtOAc (200 mL). The aqueous layer was extracted with EtOAc (3×30 mL) and the combined extracts were washed with brine and dried through Na2SO4. Evaporation of solvent afforded the title compound (3.17 g, 100%). 1H NMR (CDCl3) δ 0.85 (s, 3H), 1.27 (s, 3H), 3.70 (s, 2H), 3.82 (s, 2H), 3.85 (s, 3H), 5.90 (s, 1H), 6.72 (d, J=8 Hz, 1H), 7.02 (d, J=8 Hz, 1H).

reactant | 6-bromo-2-hydroxy-3-methoxy-benzaldehyde | 10.0 mmol, 2.31 g | BrC1=CC=C(C(=C1C=O)O)OC | C8H7BrO3
reactant | neopentyl glycol | 11.0 mmol, 1.14 g | OCC(C)(CO)C | C5H12O2
reactant | triethyl orthoformate | 13.0 mmol, 1.93 g | C(OCC)(OCC)OCC | C7H16O3
catalyst | TsOH | 9.5 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
product | 3-Bromo-2-(5,5-dimethyl-[1,3]dioxan-2-yl)-6-methoxy-phenol | 3.17 g, 100% | BrC=1C(=C(C(=CC1)OC)O)C1OCC(CO1)(C)C | C13H17BrO4
